US07462639B2
To a solution of 3,3-diethyl-1-isopropyl-5-nitro-1,3-dihydro-indol-2-one (12.6 g, 45.60 mmol) in methanol/tetrahydrofuran (THF) (1:1, 80 ml) palladium on charcoal (10%, 1.2 g) was added and the mixture hydrogenated at room temperature for 4 h. After filtration of the catalyst the solvent was evaporated and the residue triturated with iso-hexane to yield 9.7 g 5-amino-3,3-diethyl-1-isopropyl-1,3-dihydro-indol-2-one (39.37 mmol, 86%).

reactant | 3,3-diethyl-1-isopropyl-5-nitro-1,3-dihydro-indol-2-one | 45.60 mmol, 12.6 g | C(C)C1(C(N(C2=CC=C(C=C12)[N+](=O)[O-])C(C)C)=O)CC | C15H20N2O3
solvent | methanol tetrahydrofuran | 80 ml | CO.O1CCCC1
catalyst | palladium on charcoal | 1.2 g | [Pd] | Pd
product | 5-amino-3,3-diethyl-1-isopropyl-1,3-dihydro-indol-2-one | 39.37 mmol, 9.7 g, 86% | NC=1C=C2C(C(N(C2=CC1)C(C)C)=O)(CC)CC | C15H22N2O
